US05051413
0.44 g of E-2-formylamino-4-benzyl-5-diethylphosphono-3-pentenoic acid ethyl ester are dissolved in 8 ml of 4.5N hydrochloric acid and heated at 85° for 48 hours. After concentration in vacuo, the residue is dissolved in a small amount of ethanol and 1 ml of ethanol/propylene oxide(1:1) is added dropwise thereto. The resulting white precipitate is filtered off and, after recrystallisation from water, E-2-amino-4-benzyl-5-phosphono-3-pentenoic acid is obtained in the form ofcolourless needles, m.p. 196°-198°.

reactant | E-2-formylamino-4-benzyl-5-diethylphosphono-3-pentenoic acid ethyl ester | 0.44 g | C(C)OC(C(\C=C(\CP(=O)(OCC)OCC)/CC1=CC=CC=C1)NC=O)=O | C19H28NO6P
solvent | hydrochloric acid | 4.5N, 8 ml | Cl | ClH
product | E-2-amino-4-benzyl-5-phosphono-3-pentenoic acid | NC(C(=O)O)\C=C(\CP(=O)(O)O)/CC1=CC=CC=C1 | C12H16NO5P
